* C:\users\rohith\My Documents\Documents\Cellular-Detector-LTSpice\CellDetec.asc
V1 N001 0 AC 1
C1 N002 N001 1.8n
R1 N002 0 0.1
R2 N003 N002 0.1
C2 N003 0 0.5n
XU1 N004 0 N007 opamp Aol=100K GBW=10Meg
R3 N004 N003 1
R4 N004 N007 10k
R5 0 N005 0.1
L1 N008 N005 2n
C3 N007 N008 2p
D1 N006 N005 D
D2 N005 N009 D
D3 0 N009 D
D4 N006 0 D
XU2 N009 N011 N010 opamp Aol=100K GBW=10Meg
V2 N011 N006 2
D5 N010 N006 D
.model D D
.lib Z:\home\rohith\Documents\LTSpiceIV\lib\cmp\standard.dio
.ac dec 1000 0.5G 3.5G
.lib opamp.sub
.backanno
.end
